US07253286B2
6-(4-Benzyloxyphenyl)-4-(1H-5-indolyloxy)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine
After adding 1.9 ml of dimethylformamide, 180 mg of 5-hydroxyindole and 112 mg of potassium carbonate to 190 mg of 6-(4-benzyloxyphenyl)-4-chloro-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine, the mixture was stirred at 135–140° C. for 4 hours. After returning it to room temperature, water was added, and liquid separation and extraction were performed with an ethyl acetate:tetrahydrofuran (5:1) mixed solvent. The organic layer was concentrated and subjected to NH silica gel column chromatography (hexane-ethyl acetate) to obtain 90 mg of the title compound.

reactant | dimethylformamide | 1.9 ml | CN(C=O)C | C3H7NO
reactant | 5-hydroxyindole | 180 mg | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | potassium carbonate | 112 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-(4-benzyloxyphenyl)-4-chloro-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine | 190 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2Cl)N1COCC[Si](C)(C)C | C25H28ClN3O2Si
solvent | water | O | H2O
product | 6-(4-Benzyloxyphenyl)-4-(1H-5-indolyloxy)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine | 90 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC=2C=C3C=CNC3=CC2)N1COCC[Si](C)(C)C | C33H34N4O3Si
